US04288443
N-[2-[[5-(Dimethylaminomethyl)-4-methyl-2-furanylmethyl]thio]ethyl]-N'-nitroguanidine
A solution of 5-[[2-(amino)ethyl]thio]methyl-N,N,3-trimethyl-2-furanmethanamine (1.14 g) and N-nitro-S-methyl-isothiourea (0.65 g) in ethanol (10 ml) was warmed for 5 minutes and stirred for 30 minutes at ambient temperature. The solvent was removed in vacuo and the residue purified by column chromatography (silica/methanol: 0.88 ammonia 100:1). The resulting oil was triturated with petroleum ether (40°-60°) and the solid residue crystallised from toluene yielding the title compound (0.5 g) as a white powder m.p. 84°-85°.

reactant | 5-[[2-(amino)ethyl]thio]methyl-N,N,3-trimethyl-2-furanmethanamine | 1.14 g | NCCSCC1=CC(=C(O1)CN(C)C)C | C11H20N2OS
reactant | N-nitro-S-methyl-isothiourea | 0.65 g | [N+](=O)([O-])NC(SC)=N | C2H5N3O2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[2-[[5-(Dimethylaminomethyl)-4-methyl-2-furanylmethyl]thio]ethyl]-N'-nitroguanidine | CN(C)CC1=C(C=C(O1)CSCCNC(=N)N[N+](=O)[O-])C | C12H21N5O3S
